US04855291
A mixture of ethyl 7-fluoro-4-hydroxyquinoline-3-carboxylate (4.7 g), anhydrous potassium carbonate (3.0 g), dimethyl sulphate (2.52 g) and butanone (200 ml) was boiled under reflux for 14 hours. The solvent was evaporated and the residue was triturated with dichloromethane (150 ml). The mixture was filtered and the filtrate was evaporated to a small volume. Diethyl ether was added, causing a solid to precipitate. The solid was collected, washed with ether, dried and recrystallised from IMS to give the novel compound ethyl 7-fluoro-1-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate, m.p. 164°-166°.

reactant | ethyl 7-fluoro-4-hydroxyquinoline-3-carboxylate | 4.7 g | FC1=CC=C2C(=C(C=NC2=C1)C(=O)OCC)O | C12H10FNO3
reactant | potassium carbonate | 3.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulphate | 2.52 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | butanone | 200 ml | CC(CC)=O | C4H8O
product | ethyl 7-fluoro-1-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | FC1=CC=C2C(C(=CN(C2=C1)C)C(=O)OCC)=O | C13H12FNO3
